US04236004
7,8-dihydro-5-hydroxy-2-(methylthio)-7-oxo-8-propylpyrido[2,3-d]-pyrimidine-6-carboxylic acid ethyl ester
To a solution of 12.8 g. (0.05 mole) of 2-methylthio-4-propylamino-5-pyrimidine carboxylic acid ethyl ester in 100 ml. of anhydrous diethyl ether was added 0.75 g. (0.025 mole) of ethyl malonyl chloride. The mixture was stirred at room temperature for 4 hours and was filtered. The filtrate was evaporated in a rotary evaporator and the residue was dissolved in 15 ml. of ethanol and this solution was added to a solution of 1.15 g. (0.05 g atom) of sodium in 100 ml. of ethanol. After stirring at room temperature for 5 minutes, the mixture was diluted with water to the cloudy point and was acidified with conc. hydrochloric acid. The precipitate which formed was collected, air dried and was recrystallized from ethyl acetate to give 0.2 g. of title product--m.p. 130°-133° C.

reactant | 2-methylthio-4-propylamino-5-pyrimidine carboxylic acid ethyl ester | 0.05 mole | C(C)OC(=O)C=1C(=NC(=NC1)SC)NCCC | C11H17N3O2S
reactant | ethyl malonyl chloride | 0.025 mole | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | diethyl ether | C(C)OCC | C4H10O
product | 7,8-dihydro-5-hydroxy-2-(methylthio)-7-oxo-8-propylpyrido[2,3-d]-pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)SC)N(C1=O)CCC)O | C14H17N3O4S
